US07745641B2
4-Methanesulfonyloxy-5-formyl-3-methoxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (220 mg, 0.416 mmol) was dissolved in methanol (4 mL), and the solution was added with trimethyl orthoformate (0.091 mL, 0.83 mmol) and p-toluenesulfonic acid monohydrate (1.0 mg, 0.0058 mmol), followed by stirring at 50° C. for 5 hours. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate solution and water. The precipitated solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 4-methanesulfonyloxy-5-dimethoxymethyl-3-methoxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (231 mg, yield 96%).

reactant | 4-Methanesulfonyloxy-5-formyl-3-methoxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 0.416 mmol, 220 mg | CS(=O)(=O)OC1=C2C(N(C(C2=C(C=C1C=O)I)=O)C(C)(C1=CC=CC=C1)C)OC | C20H20INO6S
reactant | trimethyl orthoformate | 0.83 mmol, 0.091 mL | C(OC)(OC)OC | C4H10O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | methanol | 4 mL | CO | CH4O
catalyst | p-toluenesulfonic acid monohydrate | 0.0058 mmol, 1.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-methanesulfonyloxy-5-dimethoxymethyl-3-methoxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 231 mg, yield 96% | CS(=O)(=O)OC1=C2C(N(C(C2=C(C=C1C(OC)OC)I)=O)C(C)(C1=CC=CC=C1)C)OC | C22H26INO7S
